US03956374
Step B: 1-(p-Chlorophenyl)-4,7-diphenyl-1,6-heptadien-3-one
A sodium hydroxide solution (2.5 ml., 20%) is added to a solution of p-chlorobenzaldehyde (7.0 g., 0.05 mole) and 3,6-diphenyl-5-hexen-2-one (12.5 g., 0.05 mole) in ethanol (125 ml.) with stirring. The yellowish solid that separates on continued stirring is filtered, washed with cold ethanol, and air-dried, 14.35 g., m.p. 92°-95°C. Recrystallization from hexane gives material with m.p. 95°-96.5°C.

reactant | sodium hydroxide | 2.5 ml | [OH-].[Na+]
reactant | p-chlorobenzaldehyde | 0.05 mole, 7.0 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | 3,6-diphenyl-5-hexen-2-one | 0.05 mole, 12.5 g | C1(=CC=CC=C1)C(C(C)=O)CC=CC1=CC=CC=C1 | C18H18O
solvent | ethanol | 125 ml | C(C)O | C2H6O
product | 1-(p-Chlorophenyl)-4,7-diphenyl-1,6-heptadien-3-one | ClC1=CC=C(C=C1)C=CC(C(CC=CC1=CC=CC=C1)C1=CC=CC=C1)=O | C25H21ClO
